* source AMP_BALANZA
X_U1         N00215 N00219 N00448 N00462 N00223 OPA336/BB
R_R1         N01438 N00215  1k TC=0,0 
R_R2         0 N00215  10k TC=0,0 
R_R3         N01442 N00219  1k TC=0,0 
R_R4         N00219 N00223  10k TC=0,0 
V_V3         N00448 0 5Vdc
V_V4         0 N00462 5Vdc
X_U2         N00223 N01010 N00448 N00462 N00998 OPA336/BB
R_R5         0 N01010  1k TC=0,0 
R_R6         N01010 N00998  9k TC=0,0 
R_R7         0 N00998  1k TC=0,0 
V_V2         N01438 0 5mVdc
V_V1         0 N01442 5mVdc
R_R8         N00223 0  900 TC=0,0 
