* source AMP_BALANZA
R_R1         N01438 N00215  1k TC=0,0 
R_R2         0 N00215  10k TC=0,0 
R_R3         N01442 N00219  1k TC=0,0 
R_R4         N00219 N00223  10k TC=0,0 
V_V3         N00448 0 5Vdc
V_V4         0 N00462 5Vdc
R_R5         0 N01010  1k TC=0,0 
R_R6         N01010 N00998  9k TC=0,0 
R_R7         0 N00998  10k TC=0,0 
V_V2         N01438 0 10mVdc
V_V1         0 N01442 10mVdc
R_R8         N00223 N03063  900 TC=0,0 
X_U3         N00215 N00219 N00448 N00462 N00223 MAX4240/MXM
X_U4         N03063 N01010 N00448 N00462 N00998 MAX4240/MXM
